US08487108B2
To a solution of (R)-tert-butyl 3-(3-fluoro-5-methylbenzoyl)piperidine-1-carboxylate (1.7 g, 5.3 mmol) in MeOH (30 mL), NaBH4 (1.61 g, 42.3 mmol) was added in portions and stirred overnight. The reaction was quenched with the addition of water (50 mL) and evaporated in vacuo until MeOH was removed. The aqueous layer was extracted with EA, washed with brine and dried over Na2SO4. The crude product was purified by chromatography to give (R)-tert-butyl 3-((R)-(3-fluoro-5-methylphenyl)(hydroxy)methyl)piperidine-1-carboxylate (730 mg, 42.9%).

reactant | (R)-tert-butyl 3-(3-fluoro-5-methylbenzoyl)piperidine-1-carboxylate | 5.3 mmol, 1.7 g | FC=1C=C(C(=O)[C@H]2CN(CCC2)C(=O)OC(C)(C)C)C=C(C1)C | C18H24FNO3
reactant | NaBH4 | 42.3 mmol, 1.61 g | [BH4-].[Na+]
solvent | MeOH | 30 mL | CO | CH4O
product | (R)-tert-butyl 3-((R)-(3-fluoro-5-methylphenyl)(hydroxy)methyl)piperidine-1-carboxylate | 730 mg, 42.9% | FC=1C=C(C=C(C1)C)[C@@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)O | C18H26FNO3
